US07897767B2
Concentrated hydrochloric acid (0.20 mL, 2.4 mmol) was added to a stirred suspension of 1-{4-amino-2-[2-(2-methyl-1,3-dioxolan-2-yl)ethyl]-1H-imidazo[4,5-c]quinolin-1-yl}-2-methylpropan-2-ol (0.30 g, 0.81 mmol) in water (5 mL). A solution resulted and was stirred at room temperature for 3 hours. The solution was adjusted to pH 13 with 20% aqueous sodium hydroxide. A gummy solid formed. Dichloromethane was added, but the solid did not dissolved. The mixture was poured into a separatory funnel, then the contents of the funnel were filtered. The white solid isolated by filtration was washed with water and dried to yield 0.17 g of 4-[4-amino-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-2-yl]butan-2-one as a white powder, mp 181-184° C.

reactant | hydrochloric acid | 2.4 mmol, 0.20 mL | Cl | ClH
reactant | 1-{4-amino-2-[2-(2-methyl-1,3-dioxolan-2-yl)ethyl]-1H-imidazo[4,5-c]quinolin-1-yl}-2-methylpropan-2-ol | 0.81 mmol, 0.30 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC(C)(O)C)CCC2(OCCO2)C | C20H26N4O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Dichloromethane | ClCCl | CH2Cl2
solvent | water | 5 mL | O | H2O
product | 4-[4-amino-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-2-yl]butan-2-one | 0.17 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC(C)(C)O)CCC(C)=O | C18H22N4O2
